US07585885B2
(S)-2-sec-Butylamino-isonicotinic acid
Treat a solution of (S)-2-sec-butylamino-isonicotinic acid methyl ester (2.69 g, 12.5 mmol) in methanol (35 mL) with 1 N NaOH (15 mL, 15 mmol) at room temperature for 5 hr. Acidify to about pH=3 with 1 N HCl. Concentrate and redissolve the residue in a 1:1 CH3CN:water solution and lyophilize to give the title compound.

reactant | (S)-2-sec-butylamino-isonicotinic acid methyl ester | 12.5 mmol, 2.69 g | COC(C1=CC(=NC=C1)N[C@@H](C)CC)=O | C11H16N2O2
reactant | NaOH | 15 mmol, 1 N, 15 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
product | (S)-2-sec-Butylamino-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=CN1 | C10H14N2O2
